US05712303
A. 3-Trifluoromethylphenylthioacetonitrile
To sodium (0.62 g, 27.0 mmol) dissolved in 40 mL of ethanol was added 4.79 g (26.9 mmol) of 3-trifluoromethylthiophenol and 2.04 g (27.0 mmol) of chloroacetonitrile. The reaction mixture was heated at reflux for 1 hour and then stirred overnight at room temperature. To the cooled reaction mixture was added one volume of ether and the precipitated solids were removed by filtration. The filtrate was evaporated on the rotary evaporator to give the product as an oil in essentially quantitative yield. This material was used in the following reaction without further purification.

reactant | sodium | 27.0 mmol, 0.62 g | [Na] | Na
reactant | 3-trifluoromethylthiophenol | 26.9 mmol, 4.79 g | FC(C=1C=C(C=CC1)S)(F)F | C7H5F3S
reactant | chloroacetonitrile | 27.0 mmol, 2.04 g | ClCC#N | C2H2ClN
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-Trifluoromethylphenylthioacetonitrile | quantitative yield | FC(C=1C=C(C=CC1)SCC#N)(F)F | C9H6F3NS
